US07592347B2
1-Propyl-4-[1-(4-cyanophenyl)-piperidine-4-carbonyl]-piperazine hydrochloride (E116)
A solution of 1-[1-(4-cyanophenyl)-piperidine-4-carbonyl]-piperazine hydrochloride (D34) (0.3 g) in dry DCM (10 ml) was treated with triethylamine (0.25 ml) and propionaldehyde (0.25 ml). The reaction mixture was stirred at rt for 30 min. Sodium triacetoxyborohydride (3.7 g) was added and the reaction was stirred at rt overnight. The reaction mixture was treated with 1N NaOH (2 ml) and stirred at rt for 15 min followed by the addition of water (20 ml) and DCM (20 ml). The organic layer was dried (MgSO4) and filtered and the filtrate was absorbed onto silica gel (5 g) and purified by column chromatography (silica gel, step gradient 0-10% MeOH (containing 10% 0.88 ammonia solution) in DCM]. The fractions containing the required product were evaporated and the free base was dissolved in MeOH (1 ml) and treated with ethereal HCl to give the title compound (E116) as a solid (50 mg). MS electrospray; (+ve ion) 341 (MH+).

reactant | 1-[1-(4-cyanophenyl)-piperidine-4-carbonyl]-piperazine hydrochloride | 0.3 g | Cl.C(#N)C1=CC=C(C=C1)N1CCC(CC1)C(=O)N1CCNCC1
reactant | propionaldehyde | 0.25 ml | C(CC)=O | C3H6O
reactant | Sodium triacetoxyborohydride | 3.7 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 1N, 2 ml | [OH-].[Na+]
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | water | 20 ml | O | H2O
solvent | triethylamine | 0.25 ml | C(C)N(CC)CC | C6H15N
product | 1-Propyl-4-[1-(4-cyanophenyl)-piperidine-4-carbonyl]-piperazine hydrochloride | 50 mg | Cl.C(CC)N1CCN(CC1)C(=O)C1CCN(CC1)C1=CC=C(C=C1)C#N | InChI=1S/C20H28N4O.ClH/c1-2-9-22-12-14-24(15-13-22)20(25)18-7-10-23(11-8-18)19-5-3-17(16-21)4-6-19;/h3-6,18H,2,7-15H2,1H3;1H
